US08912186B2
By a procedure similar to that of example 1.4, starting from 4-iodo-1,2-phenylenediamine and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5-iodo-2-benzimidazolyl)butanoic acid•HCl was obtained as light red solid. 1H-NMR (500 MHz, DMSO-d6): δ (ppm)=2.72 (dd, J=16.3, 8.6 Hz, 1H), 2.83 (dd, J=16.3, 6.2 Hz, 1H), 3.43 (dd, J=14.9, 9.3 Hz, 1H), 3.55 (dd, J=14.9, 6.9 Hz, 1H), 3.86 (m, 1H), 7.29 (d, J=8.5 Hz, 2H), 7.35 (d, J=8.5 Hz, 2H), 7.53 (d, J=8.6 Hz, 1H), 7.74 (dd, J=8.6, 1.4 Hz, 1H), 8.07 (d, J=1.3 Hz, 1H).

reactant | 4-iodo-1,2-phenylenediamine | IC1=CC(=C(C=C1)N)N | C6H7IN2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5-iodo-2-benzimidazolyl)butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)I.Cl | InChI=1S/C17H14ClIN2O2.ClH/c18-12-3-1-10(2-4-12)11(8-17(22)23)7-16-20-14-6-5-13(19)9-15(14)21-16;/h1-6,9,11H,7-8H2,(H,20,21)(H,22,23);1H
